US06498169B1
Synthesis of 4-(Methylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine
To a solution of 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (1.00 g) in 1,2-dichloroethane (60 mL) was added 30% solution of methylamine in ethanol (750 mg) and sodium triacetoxyborohydride (1.66 g). The mixture was stirred at room temperature for 3 hours, then small amount of water was added and evaporated. Water was added to the residue and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was subjected to silica gel column chromatography using chloroform-methanol (40:1) to give the title compound.

reactant | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 1.00 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | methylamine | CN | CH5N
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
solvent | ethanol | 750 mg | C(C)O | C2H6O
solvent | sodium triacetoxyborohydride | 1.66 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-(Methylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | CNC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C21H29N3O3
